US05958927
Trans-2-[4-(2,3-dihydro [1,4]benzodioxin-5-yl)-4-hydroxypiperid-1-yl]-5-fluoroindan-1-ol
Prepared using, in succession, the methods described in Examples 1 and 2, but using 5-fluoroindan-1-one in Step 1 of Example 1, and using 4-(2,3-dihydro[1,4]benzodioxin-5-yl)-4-hydroxypiperidine in Step 2 of Example 1.

reactant | 5-fluoroindan-1-one | FC=1C=C2CCC(C2=CC1)=O | C9H7FO
reactant | 4-(2,3-dihydro[1,4]benzodioxin-5-yl)-4-hydroxypiperidine | O1CCOC2=C1C=CC=C2C2(CCNCC2)O | C13H17NO3
product | Trans-2-[4-(2,3-dihydro [1,4]benzodioxin-5-yl)-4-hydroxypiperid-1-yl]-5-fluoroindan-1-ol | O1CCOC2=C1C=CC=C2C2(CCN(CC2)[C@H]2[C@@H](C1=CC=C(C=C1C2)F)O)O | C22H24FNO4
